US07425634B2
(67a) 2-((benzyloxy)methyl)-2-methyl-1,3-dioxolane
A mixture of 1-benzyloxy-2-propanone (4.94 g, 30.1 mmol), ethylene glycol (20 ml, 359 mmol), triethyl orthoformate (5 ml, 30.1 mmol), and p-toluenesulfonic acid monohydrate (130 mg, 0.683 mmol) was stirred at room temperature for 61.5 hours. To the reaction mixture, a saturated aqueous sodium hydrogen carbonate solution (20 ml) was added and the mixture was extracted twice with chloroform (50 ml) and the organic layer was dried over anhydrous sodium sulfate and concentrated. The crude product was purified by silica gel column chromatography (NH silica gel, elution solvent: heptane/ethyl acetate=1/0 to 4/1 gradient). Desired fractions were concentrated to obtain the title compound (5.67 g, 90.5% yield) as a colorless oil.

reactant | 1-benzyloxy-2-propanone | 30.1 mmol, 4.94 g | C(C1=CC=CC=C1)OCC(C)=O | C10H12O2
reactant | ethylene glycol | 359 mmol, 20 ml | C(CO)O | C2H6O2
reactant | triethyl orthoformate | 30.1 mmol, 5 ml | C(OCC)(OCC)OCC | C7H16O3
catalyst | p-toluenesulfonic acid monohydrate | 0.683 mmol, 130 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
product | 2-((benzyloxy)methyl)-2-methyl-1,3-dioxolane | 5.67 g, 90.5% yield | C(C1=CC=CC=C1)OCC1(OCCO1)C | C12H16O3
